US08034812B2
Production of N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-methylphenyl]-2,4-dimethyl-1,3-thiazole-5-carboxamide
In the same manner as in Example 261 and using 2,4-dimethyl-1,3-thiazole-5-carboxylic acid (130 mg, 0.80 mmol), N-[6-(3-amino-4-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (200 mg, 0.62 mmol), 1-hydroxybenzotriazole (110 mg, 0.80 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (150 mg, 0.80 mmol), triethylamine (94 mg, 0.93 mmol) and N,N-dimethylformamide (5 mL) as starting materials, the title compound (120 mg, 41%) was obtained as a pale-yellow solid.

reactant | 2,4-dimethyl-1,3-thiazole-5-carboxylic acid | 0.80 mmol, 130 mg | CC=1SC(=C(N1)C)C(=O)O | C6H7NO2S
reactant | N-[6-(3-amino-4-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.62 mmol, 200 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1C | C17H17N5O2
reactant | 1-hydroxybenzotriazole | 0.80 mmol, 110 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.80 mmol, 150 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | triethylamine | 0.93 mmol, 94 mg | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-methylphenyl]-2,4-dimethyl-1,3-thiazole-5-carboxamide | 120 mg, 41% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=CC(=C(C2)NC(=O)C2=C(N=C(S2)C)C)C)C1 | C23H22N6O3S
